US04631281
4-(2,3-Epoxypropoxy)-phenylacetone is reacted with 2-methylphenyl-piperazine analogously to Example 2(a). 1-[4-(propan-2-on-yl)-phenoxy]-3-[4-(2-methylphenyl)-piperazin-1-yl]-propan-2-ol is obtained.

reactant | 4-(2,3-Epoxypropoxy)-phenylacetone | O1C(COC2=CC=C(C=C2)CC(C)=O)C1 | C12H14O3
reactant | 2-methylphenyl-piperazine | CC1=C(C=CC=C1)N1CCNCC1 | C11H16N2
product | 1-[4-(propan-2-on-yl)-phenoxy]-3-[4-(2-methylphenyl)-piperazin-1-yl]-propan-2-ol | C(C(C)=O)C1=CC=C(OCC(CN2CCN(CC2)C2=C(C=CC=C2)C)O)C=C1 | C23H30N2O3
